US07098212B2
2-[4-Chloro-2-(2H-tetrazol-5-yloxy)-phenoxy]-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone
To a solution of 2-(4-chloro-2-cyanato-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone (0.17 g, 0.427 mmol) in acetone (2 mL) was added sodium azide (0.061 g, 0.94 mmol) and the reaction was stirred at reflux for 3 hours, then cooled to ambient temperature and stirred 18 hours. The reaction was diluted with water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The product was purified by anion exchange chromatography to give the title compound as its acetic acid addition salt (0.073 g, LRMS: 461.2, 463.3).

reactant | 2-(4-chloro-2-cyanato-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone | 0.427 mmol, 0.17 g | ClC1=CC(=C(OCC(=O)N2[C@@H](CN(CC2)CC2=CC=C(C=C2)F)C)C=C1)OC#N | C21H21ClFN3O3
reactant | sodium azide | 0.94 mmol, 0.061 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-[4-Chloro-2-(2H-tetrazol-5-yloxy)-phenoxy]-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone | ClC1=CC(=C(OCC(=O)N2[C@@H](CN(CC2)CC2=CC=C(C=C2)F)C)C=C1)OC=1N=NNN1 | C21H22ClFN6O3
